US05854268
1. 3-[5-(1,2,4-Triazol-1-yl)methyl-1H-indol-3-yl]propan-1-ol
A mixture of palladium acetate (0.78 g), lithium chloride (1.47 g), sodium carbonate (18.49 g), triphenylphosphine (1.8 g), 5-triethylsilyl-4-pentyn-1-ol triethylsilyl ether (16.3 g) and 2-iodo-4-[(1,2,4-triazol-1-yl)methyl]aniline (10.0 g) in degassed anhydrous dimethylformamide (400 ml) was heated at 100° C. for 10 h, under nitrogen. After cooling, the reaction was filtered, concentrated, and the residue was partitioned between water and ethyl acetate. The organic phase was dried (MgSO4), concentrated and the residue was treated with 5N hydrochloric acid/methanol (1:3; 400 ml) for 3 h at room temperature. The methanol was removed under vacuum, the aqueous residue was basified with sodium carbonate solution and it was extracted with ethyl acetate. The combined organic extracts were dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, dichloromethane/methanol, 95:5) followed by trituration with petroleum ether, gave the title compound (56%) as a beige solid. δH (360 MHz, DMSO-d6) 1.74-1.82 (2H, m), 2.66-2.70 (2H, m), 3.43-3.49 (2H, m), 4.41-4.44 (1H, m), 5.42 (2H, s), 7.01-7.04 (1H, m), 7.11-7.12 (1H, m), 7.28-7.30 (1H, m), 7.51 (1H, s), 7.93 (1H, s), 8.60 (1H, s), 10.79 (1H, s).

reactant | lithium chloride | 1.47 g | [Cl-].[Li+]
reactant | sodium carbonate | 18.49 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-triethylsilyl-4-pentyn-1-ol triethylsilyl ether | 16.3 g | C(C)[Si](CC)(CC)OCCCC#C[Si](CC)(CC)CC | C17H36OSi2
reactant | 2-iodo-4-[(1,2,4-triazol-1-yl)methyl]aniline | 10.0 g | IC1=C(N)C=CC(=C1)CN1N=CN=C1 | C9H9IN4
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.78 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[5-(1,2,4-Triazol-1-yl)methyl-1H-indol-3-yl]propan-1-ol | 56% | N1(N=CN=C1)CC=1C=C2C(=CNC2=CC1)CCCO | C14H16N4O
